US08975415B2
To a solution of 6-bromo-4H-spiro[chromene-3,3′-oxetan]-4-one (143 mg, 0.531 mmol) in THF (2 mL) was added Tebbe reagent ((C5H5)2TiCH2ClAl(CH3)2, μ-Chloro[di(cyclopenta-2,4-dien-1-yl)]dimethyl(μ-methylene)titaniumaluminum, 0.5 M in toluene, 2 mL) under ice-water bath cooling. After the reaction mixture was stirred at the same temperature for 2 hours and then room temperature for 4 hours, 1M aqueous NaOH (1 mL) was added. After dilution with water and filtration with Celite, the insoluble material was washed with CHCl3. The aqueous phase was extracted with CHCl3 and combined organic layer was concentrated in vacuo. The residue was purified with silica-gel column chromatography to give 6-bromo-4-methylene-4H-spiro[chromene-3,3′-oxetane] (0.10 g).

reactant | 6-bromo-4H-spiro[chromene-3,3′-oxetan]-4-one | 0.531 mmol, 143 mg | BrC=1C=C2C(C3(COC3)COC2=CC1)=O | C11H9BrO3
reactant | NaOH | 1M, 1 mL | [OH-].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
catalyst | Tebbe reagent | 0.5 M, 2 mL | [CH3-].C[Al+]C.[CH-]1C=CC=C1.[CH-]1C=CC=C1.[Cl-].[Ti+3]
product | 6-bromo-4-methylene-4H-spiro[chromene-3,3′-oxetane] | 0.10 g | BrC=1C=C2C(C3(COC3)COC2=CC1)=C | C12H11BrO2
